US08710261B2
Synthesis of 3-(2-bromoethyl)-1,2,3-benzotriazin-4(3H)-one
To a solution of the compound 1,2,3-benzotriazin-4(3H)-one (500 mg) (commercially available) in dimethylformamide (13 ml) was added anhydrous potassium carbonate (2.8 g) and stirred for 20 minutes. To it was added dibromoethane (2 g) and stirred the reaction mixture first at room temperature for few minutes and then at 60° C. for 2 hours. The solid thus obtained was filtered and the filterate was concentrated under reduced pressure. The residue thus obtained was diluted with water and extracted with ethylacetate. The organic layer was separated, washed with water and brine and dried over anhydrous sodium sulphate. The solvent was evaporated under reduced pressure and the residue thus obtained was purified by column chromatography using 20% ethyl acetate in hexane as eluant to furnish the title compound (590 mg).

reactant | 1,2,3-benzotriazin-4(3H)-one | 500 mg | N1=NNC(C2=C1C=CC=C2)=O | C7H5N3O
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | dibromoethane | 2 g | BrC(C)Br | C2H4Br2
solvent | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(2-bromoethyl)-1,2,3-benzotriazin-4(3H)-one | 590 mg | BrCCN1N=NC2=C(C1=O)C=CC=C2 | C9H8BrN3O
